US08017611B2
3-(1,3-Benzoxazol-2-yl)-5-bromo-pyridin-2-amine (1.83 g), potassium acetate (1.92 g), 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium(II)-dichloromethane adduct (0.255 g) and 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (3.20 g) were mixed in dioxane (20 ml). The resulting suspension was degassed with argon and stirred at 80° C. overnight. LCMS monitoring showed complete conversion. The reaction mixture was diluted with chloroform (60 ml). The insolubles were removed by filtration and washed with chloroform (60 ml). The filtrate was concentrated to give a solid, which was taken up into ethyl acetate (20 ml). A solid was obtained after concentration of the chloroform solution. The solid was collected by filtration, washed with ethyl acetate (20 ml) to give 3-(1,3-benzoxazol-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine (1.37 g); NMR Spectrum: (CDCl3) 1.37 (s, 12H), 7.32-7.39 (m, 2H), 7.44 (bs, 2H), 7.57 (dd, 1H), 7.72 (dd, 1H), 8.58 (d, 1H), 8.70 (d, 1H); Mass spectrum: M+H+: 338

reactant | 3-(1,3-Benzoxazol-2-yl)-5-bromo-pyridin-2-amine | 1.83 g | O1C(=NC2=C1C=CC=C2)C=2C(=NC=C(C2)Br)N | C12H8BrN3O
reactant | potassium acetate | 1.92 g | C(C)(=O)[O-].[K+]
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 3.20 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium(II) dichloromethane | 0.255 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(1,3-benzoxazol-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine | 1.37 g | O1C(=NC2=C1C=CC=C2)C=2C(=NC=C(C2)B2OC(C(O2)(C)C)(C)C)N | C18H20BN3O3
